US06143762
(E)-2-(4-(3-Phenylpropenoyl)aminobutyl)-7-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline
Trifluoromethanesulfonic anhydride (0.26 ml, 1.52 mmol) was added dropwise with stirring to an ice cooled solution of (E)-7-hydroxy-2-(4-(3-phenylpropenoyl)aminobutyl)-1,2,3,4-tetrahydroisoquinoline (0.41 g, 1.17 mmol) in anhydrous pyridine (5 ml). After stirring at room temperature for 18 h the reaction mixture was poured into 10% aqueous copper (II) sulfate (100 ml). The mixture was extracted with ethyl acetate (2×75 ml). Combined extracts were washed with 10% aqueous copper (II) sulfate (2×50 ml), water (50 ml), dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica using 10-100% ethyl acetate-hexane gradient elution to afford the title compound (0.205 g, 43%).

reactant | Trifluoromethanesulfonic anhydride | 1.52 mmol, 0.26 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | (E)-7-hydroxy-2-(4-(3-phenylpropenoyl)aminobutyl)-1,2,3,4-tetrahydroisoquinoline | 1.17 mmol, 0.41 g | OC1=CC=C2CCN(CC2=C1)CCCCNC(\C=C\C1=CC=CC=C1)=O | C22H26N2O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
catalyst | copper (II) sulfate | 100 ml | S(=O)(=O)([O-])[O-].[Cu+2]
product | (E)-2-(4-(3-Phenylpropenoyl)aminobutyl)-7-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline | 0.205 g, 43% | C1(=CC=CC=C1)/C=C/C(=O)NCCCCN1CC2=CC(=CC=C2CC1)OS(=O)(=O)C(F)(F)F | C23H25F3N2O4S
